US06281250B1
Retinol was prepared in a high degree of purity from commercial retinyl acetate for use as a reference retinoid in certain bioassays and as a precursor of retinyl ethers. A solution of 100 g of commercial all-trans-retinyl acetate in 1.5 L of a methanol solution of sodium hydroxide (2%) was stirred under a nitrogen atmosphere at room temperature. After 2 h, retinyl acetate was not observable by TLC. The orange solution was concentrated under reduced pressure, and at 30° C., to about 300 mL; the concentrated solution was poured, with stirring, into cold water (1.5 L); and hexane (1 L) was added to dissolve the precipitated retinol. The organic layer was separated and washed with three portions of water, saturated aqueous NaCl being added (as required) to separate emulsions. The organic solution was washed further with saturated aqueous NaCl, dried (MgSO4), and concentrated under reduced pressure to an orange syrup. A solution of the syrup in ethyl formate (100 mL) was cooled to −20° C., seeded with pure retinol, and stored (under a nitrogen atmosphere) at −20° C. The crystalline retinol was collected by filtration under nitrogen, washed with cold (−70° C.) ethyl formate, and dried in vacuo: yield, 47 g (54%); mp 60-62° C. [lit. Robeson et al., 1955), 62-64° C.]; HPLC, 99.4%: UV λmax 325 (ε 53 000) and 250 nm (ε 5000); 1H NMR in accord with the structure.

reactant | retinyl acetate | CC1=C(C(CCC1)(C)C)/C=C/C(=C/C=C/C(=C/COC(=O)C)/C)/C | C22H32O2
reactant | all-trans-retinyl acetate | 100 g | CC1=C(C(CCC1)(C)C)/C=C/C(=C/C=C/C(=C/COC(=O)C)/C)/C | C22H32O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 1.5 L | CO | CH4O
product | Retinol | CC1=C(C(CCC1)(C)C)/C=C/C(=C/C=C/C(=C/CO)/C)/C | C20H30O
